Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ ___ speaking woman with CAD s/p PCI x 2
(___) with recent STEMI medically managed, PVD, asthma, HTN,
presenting with one day of n/v/d.  

Per ED documentation of discussion with patient's daughter, at 4
___ today, she had one episode of nonbilious, nonbloody emesis
prompting her to bring the patient to the ED. 

In discussion with the patient with ___ interpreter, 
she
says she is here because she has had soft bowel movements nearly
once per hour today starting this morning. She denies nausea and
vomiting, but does say she is spitting up some saliva with some
brown/red mixed in. She has not seen the color of the BMs. She
says she has not eaten anything today, but has been able to
drink.

Of note, patient was admitted for similar presentation ___ - 
___.
She underwent CT A/P with no cause found for her symptoms.
Symptoms resolved with supportive care only. 

She denies abdominal pain, chest pain,
light-headedness/dizziness, fever/chills, shortness of breath.

In the ED, initial VS were:  
97.6 
100 
135/72 
18 
100% RA 

Exam notable for benign abdomen.

ECG: Sinus rhythm at 80, likely old posterior infarct (tall R
waves V1-V2), diffuse non-specific TW abnormalities, unchanged
from prior.  
Labs showed: Na 131, Cl 93, trop negative.
 
Patient received: 1L NS, 4mg IV zofran 

Transfer VS were:  
73 
133/58 
16 
100% RA 

On arrival to the floor, patient reports ongoing spitting up of
saliva with brown/red mixed in. She says that her daughter will
be here in the morning to discuss further.
 
Past Medical History:
- Asthma/COPD
- CAD s/p PCI to ___ and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: reviewed in eflowsheets 
GENERAL: Lying in bed, NAD. Voice hoarse. AO x 2 (hospital, 
self)
HEENT: AT/NC, aniceric sclera, slightly dry MM. No visible blood
in OP
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: Scattered wheezes throughout, otherwise clear 
GI: abdomen soft, moderately distended, mildly tender to
palpation diffusely. Hyperactive BS.
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: warm and well perfused, no excoriations or lesions, no
rashes 

DISCHARGE PHYSICAL EXAM:
VS: 
   Temp: 97.5 (Tm 98.1), BP: 139/58 (100-139/43-75), HR: 59
(59-73), RR: 16 (___), O2 sat: 98% (97-100), O2 delivery: RA   

GENERAL: Lying in bed, NAD.  AO x 2 (hospital, self) 
HEENT: AT/NC, anicteric sclera, slightly dry MM. No visible 
blood
in OP
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: No wheezes, otherwise clear 
GI: abdomen soft, moderately distended, nontender to palpation
diffusely. Hyperactive BS.
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: warm and well perfused, no excoriations or lesions, no
rashes 
 
Pertinent Results:
ADMISSION/IMPORTANT LABS
___ 09:45PM BLOOD WBC-7.1 RBC-4.04 Hgb-12.9 Hct-36.6 MCV-91 
MCH-31.9 MCHC-35.2 RDW-13.4 RDWSD-44.4 Plt ___
___ 09:45PM BLOOD Neuts-74.7* Lymphs-14.5* Monos-8.8 
Eos-1.1 Baso-0.6 Im ___ AbsNeut-5.29 AbsLymp-1.03* 
AbsMono-0.62 AbsEos-0.08 AbsBaso-0.04
___ 09:45PM BLOOD ___ PTT-37.5* ___
___ 07:16AM BLOOD Ret Aut-2.6* Abs Ret-0.09
___ 09:45PM BLOOD Glucose-104* UreaN-11 Creat-1.0 Na-131* 
K-4.3 Cl-93* HCO3-26 AnGap-12
___ 09:45PM BLOOD ALT-25 AST-26 AlkPhos-114* TotBili-0.4
___ 09:45PM BLOOD Lipase-41
___ 09:45PM BLOOD cTropnT-<0.01
___ 09:45PM BLOOD Albumin-4.3 Calcium-9.7 Phos-3.0 Mg-1.9
___ 07:16AM BLOOD calTIBC-231* Ferritn-49 TRF-178*
___ 05:00PM BLOOD Osmolal-270*

DISCHARGE LABS
___ 07:16AM BLOOD WBC-4.4 RBC-3.66* Hgb-11.5 Hct-32.5* 
MCV-89 MCH-31.4 MCHC-35.4 RDW-13.5 RDWSD-44.0 Plt ___
___ 07:16AM BLOOD Glucose-91 UreaN-8 Creat-1.0 Na-130* 
K-4.5 Cl-97 HCO3-23 AnGap-10
___ 07:16AM BLOOD Ret Aut-2.6* Abs Ret-0.09
___ 07:16AM BLOOD calTIBC-231* Ferritn-49 TRF-178*

MICRO - NONE

ABDOMINAL X-RAY
1.  Nonobstructive bowel gas pattern.
2.  No significant stool burden.

 
Brief Hospital Course:
SUMMARY
=============
___ woman with CAD s/p PCI x 2 (___) with recent STEMI 
medically managed, PVD, asthma, HTN, presenting with one day of 
n/v/d, improved without intervention. 

TRANSITIONAL ISSUES:
======================
[] PCP follow up for diarrhea.
[] Na at discharge 130, has remained in this range, urine lytes 
were not able to be obtained on this admission, could consider 
further workup as outpatient if persists
[] Patient with foot burning during this admission. Consider 
uptitration of gabapentin if persists.

Medication Changes
======================
-Started Omeprazole 40 mg PO DAILY 
-Switched from lisinopril to Losartan Potassium 25 mg PO/NG 
DAILY 

ACUTE ISSUES: 
=============== 
#N/V/D: 
This patient's second admission was 2 months with nausea 
vomiting and diarrhea. This could potentially be related to 
gastritis, but the patient has no recent systemic symptoms or 
recent sick contacts. Vomiting was described as dark, but there 
is no evidence of blood per ED notes. The patient's oropharynx 
is clear without evidence of blood and her hemoglobin is stable. 
She notes some straining with defecation which may represent 
constipation and thus this an episode of encopresis, however her 
KUB x-ray did not demonstrate a large stool burden. Given her 
recent hospitalizations without antibiotic use it is reasonable 
that this could represent an episode of C. difficile, however 
the patient's diarrhea resolved without intervention, making C. 
difficile less likely. Patient's vomiting and diarrhea did not 
recur during this admission. She complained of no abdominal pain 
and no nausea and was consuming a diet similar to her home diet 
at the time of discharge from the hospital. Started on 
omeprazole during this admission to alleviate any potential GERD 
contributing to symptoms.

CHRONIC ISSUES: 
=============== 
# Hyponatremia: 
Stable Na at 131 on admission. UOsms last checked ___ and was 
237. Developed hyponatremia during ___ admission for 
STEMI. The day prior, she had been started on lisinopril, which 
has hyponatremia as a rare side effect (<1% per UpToDate). She 
was changed back to losartan on this admission. 

# iCMP (EF 35-40%)
# CAD s/p STEMI
# Apical akinesis: 
STEMI diagnosed ___, medically managed. Initial plan for 3 
months of coumadin/plavix, followed by DAPT. Coumadin recently 
switched to apixaban per outpatient cardiologist (___). EKG 
on admission stable, trop negative. Dry to euvolemic on 
admission.
-continued home apixaban/Plavix
-continued home IMDUR 60
-continued metop at 50mg daily 

# COPD/Asthma - continued duonebs, advair, prn albuterol, and 
home budesonide NF

# HTN - switched lisinopril 5 to losartan 25, continued home 
metoprolol and imdur

# Insomnia - Continued Mirtazapine 15 mg po qhs

# PVD with peripheral neuropathy - Continued Gabapentin 300mg po 
qhs

# Dry eyes - QID artificial tears
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
2. Atorvastatin 80 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Gabapentin 300 mg PO QHS 
7. Ipratropium-Albuterol Neb 1 NEB NEB TID 
8. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
9. Lisinopril 5 mg PO DAILY 
10. Metoprolol Succinate XL 50 mg PO DAILY 
11. Mirtazapine 15 mg PO QHS 
12. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
13. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
14. Budesonide 1 mg/2 mL inhalation TID 
15. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
16. carboxymethylcellulose sodium 0.25 % ophthalmic (eye) QID 
17. Apixaban 2.5 mg PO BID 

 
Discharge Medications:
1.  Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
4.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
5.  Apixaban 2.5 mg PO BID  
6.  Atorvastatin 80 mg PO QPM  
7.  Budesonide 1 mg/2 mL inhalation TID  
8.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
9.  carboxymethylcellulose sodium 0.25 % ophthalmic (eye) QID  
10.  Clopidogrel 75 mg PO DAILY  
11.  Docusate Sodium 100 mg PO BID  
12.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
13.  Gabapentin 300 mg PO QHS  
14.  Ipratropium-Albuterol Neb 1 NEB NEB TID  
15.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
16.  Metoprolol Succinate XL 50 mg PO DAILY  
17.  Mirtazapine 15 mg PO QHS  
18.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
==================
non infectious Diarrhea 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

It was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
-You were in the hospital due to increased vomiting and 
diarrhea. 

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- Your blood pressure and heart rate were monitored. You were 
monitored for signs of infection. Your vomiting and diarrhea 
resolved and you were feeling much better.   
- You improved considerably and were felt well enough to leave 
the hospital 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Continue to take all your medicines and keep your 
appointments. 
- We recommend seeing your primary care physician to discuss 
your medications within the next 2 weeks. 

We wish you the best! 

Sincerely, 
Your ___ Team
 
Followup Instructions:
___